US05827849
1-[trans-4-[2-(Ethoxycarbonyl)ethyl]cyclohexyl]-3-(7-methyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepin-2-yl)imidazolidin-2-one
Gaseous hydrogen chloride is passed into 1.0 g of 1-[trans-4-(2-carboxyethyl)cyclohexyl]-3-(7-methyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepin-2-yl)imidazolidin-2-one in 30 ml of ethanol for 10 minutes and the mixture is subsequently heated under reflux for 1 hour. After standing at room temperature overnight, it is again heated to reflux, cooled and concentrated. The residue is stirred with dilute aqueous sodium carbonate solution. The solid is filtered off with suction, washed with water and dried.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-[trans-4-(2-carboxyethyl)cyclohexyl]-3-(7-methyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepin-2-yl)imidazolidin-2-one | 1.0 g | C(=O)(O)CC[C@@H]1CC[C@H](CC1)N1C(N(CC1)C=1C=NC2=C(CCN(CC2)C)N1)=O | C21H31N5O3
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 1-[trans-4-[2-(Ethoxycarbonyl)ethyl]cyclohexyl]-3-(7-methyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepin-2-yl)imidazolidin-2-one | C(C)OC(=O)CC[C@@H]1CC[C@H](CC1)N1C(N(CC1)C=1C=NC2=C(CCN(CC2)C)N1)=O | C23H35N5O3
